US07230133B2
A solution of {(2S,3S)-(2-tert-butoxycarbonylamino-3-hydroxy-hex-4-ynyl)-carbamic acid benzyl ester (1.7 g, 4.8 mmol, prepared as described in WO PCT 0250019) in MeOH (72 mL) was charged with 5% Pd/C, Degussa style (350 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (47 mL). The resultant solution was charged sequentially with 2,4-dimethylbenzaldehyde (0.66 mL, 4.7 mmol) and sodium cyanoborohydride (360 mg, 5.7 mmol), stirred for 12 h at RT, quenched with sat. NaHCO3, and extracted twice with EtOAc. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was dissolved in THF (66 mL). The resultant solution was charged sequentially with triethylamine (1.2 mL, 9.0 mmol) and dibenzyldicarbonate (1.5 g, 5.4 mmol), stirred for 36 h at RT, quenched with sat. NH4Cl, and extracted twice with EtOAc. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford (1S,2S)-(1-([benzyloxycarbonyl-(2,4-dimethyl-benzyl)-amino]-methyl}-2-hydroxy-pentyl)-carbamic acid tert-butyl ester as a clear and colorless oil (2.0 g, 86% yield). MS found: (M+Na)+=507.4.

reactant | (2S,3S)-(2-tert-butoxycarbonylamino-3-hydroxy-hex-4-ynyl)-carbamic acid benzyl ester | 4.8 mmol, 1.7 g | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)NC(=O)OC(C)(C)C)=O | C19H26N2O5
reactant | 2,4-dimethylbenzaldehyde | 4.7 mmol, 0.66 mL | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | sodium cyanoborohydride | 5.7 mmol, 360 mg | C(#N)[BH3-].[Na+]
reactant | triethylamine | 9.0 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | dibenzyldicarbonate | 5.4 mmol, 1.5 g | C(C1=CC=CC=C1)OC(=O)OC(=O)OCC1=CC=CC=C1 | C16H14O5
solvent | MeOH | 72 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (1S,2S)-(1-([benzyloxycarbonyl-(2,4-dimethyl-benzyl)-amino]-methyl}-2-hydroxy-pentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]([C@H](CCC)O)CN(CC1=C(C=C(C=C1)C)C)C(=O)OCC1=CC=CC=C1)=O | C28H40N2O5
